US07115741B2
To a solution of malonic acid (5.9 g) and 5-ethyl-2-thiophenecarboxaldehyde (4.0 g) in dry pyridine (12 mL) was added piperidine (0.42 mL). The reaction mixture was stirred at 80° C. for 17 hours, chilled and diluted with water (70 mL). This mixture was acidified with concentrated HCl (14 mL) and the white precipitate was collected by filtration, washed with water (5×10 mL) and dried under vacuum giving (2E)-3-(5-ethyl(2-thienyl))prop-2-enoic acid (5.0 g). Yield=96%

reactant | malonic acid | 5.9 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 5-ethyl-2-thiophenecarboxaldehyde | 4.0 g | C(C)C1=CC=C(S1)C=O | C7H8OS
reactant | piperidine | 0.42 mL | N1CCCCC1 | C5H11N
reactant | HCl | 14 mL | Cl | ClH
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 70 mL | O | H2O
product | (2E)-3-(5-ethyl(2-thienyl))prop-2-enoic acid | 5.0 g, Yield=96% | C(C)C1=CC=C(S1)/C=C/C(=O)O | C9H10O2S
